US04382934
To a solution of 1-[3-(4-trityl-1-piperazinyl)propyl]isatin (5.0 g) in tetrahydrofuran (100 ml) was added all at once concentrated hydrochloric acid (5 ml) and the mixture was vigorously stirred for half an hour. The resultant precipitates were collected by filtration and washed with tetrahydrofuran to give 1-[3-(1-piperazinyl)propyl]isatin dihydrochloride (2.96 g).

reactant | 1-[3-(4-trityl-1-piperazinyl)propyl]isatin | 5.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCCN1C(=O)C(=O)C2=CC=CC=C12 | C34H33N3O2
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-[3-(1-piperazinyl)propyl]isatin dihydrochloride | 2.96 g | Cl.Cl.N1(CCNCC1)CCCN1C(=O)C(=O)C2=CC=CC=C12 | InChI=1S/C15H19N3O2.2ClH/c19-14-12-4-1-2-5-13(12)18(15(14)20)9-3-8-17-10-6-16-7-11-17;;/h1-2,4-5,16H,3,6-11H2;2*1H
